US07754679B2
16.52 g of isoleucine was dissolved in a solution of 10 g of concentrated sulfuric acid, 20 mL water, 20 mL of butanol, and 200 mL of toluene in a 500 mL round bottom flask equipped with a condenser and a Dean-Stark apparatus. The resulting solution was heated at reflux temperature until no more water could be distilled. The resulting solution was then cooled to room temperature and washed with saturated aqueous sodium bicarbonate to neutralize acidic impurities, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the resulting liquid distilled under vacuum to provide phenylalanine butyrate.

reactant | isoleucine | 16.52 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
solvent | sulfuric acid | 10 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 mL | O | H2O
solvent | butanol | 20 mL | C(CCC)O | C4H10O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | phenylalanine butyrate | C(CCC)(=O)O.N[C@@H](CC1=CC=CC=C1)C(=O)O | InChI=1S/C9H11NO2.C4H8O2/c10-8(9(11)12)6-7-4-2-1-3-5-7;1-2-3-4(5)6/h1-5,8H,6,10H2,(H,11,12);2-3H2,1H3,(H,5,6)/t8-;/m0./s1
